US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(trans-2-methoxycyclohexyloxyimino)-3-oxobutyrate was treated with thiourea (0.79 g) and N,N-dimethylaniline (1.318 ml) as described in Example 4d to give the title compound as an orange gum (1.78 g) after silica gel chromatography. νmax (CH2Cl2) 3460, 3370, 3250, 3100, 1730, 1605, and 1530 cm-1 ; δH (CDCl3) inter alia 1.10-1.20 (11H, m), 3.32 (1H, m), 3.43 (3H, s), 4.00-4.50 (3H, m), 6.55 (2H, br. s), and 6.66 (1H, s). [Mass spectrum: EI M+ (327)].

reactant | Ethyl 4-bromo-(Z)-2-(trans-2-methoxycyclohexyloxyimino)-3-oxobutyrate | BrCC(/C(/C(=O)OCC)=N/O[C@H]1[C@@H](CCCC1)OC)=O | C13H20BrNO5
reactant | thiourea | 0.79 g | NC(=S)N | CH4N2S
reactant | N,N-dimethylaniline | 1.318 ml | CN(C1=CC=CC=C1)C | C8H11N
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetate | 1.78 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@H]1[C@@H](CCCC1)OC | C14H21N3O4S
